US05872131
A mixture of cyclopropyl (4-amino-3-nitrophenyl)methanone (80 g), prepared as described in U.S. Pat. No. 3,657,267, and concentrated HCl (420 ml) was stirred and refluxed for 30 minutes. The reaction mixture was cooled and water was added. The precipitate was filtered off, washed with water and dried, yielding 80 g (84.5%) of 1-(4-amino-3-nitrophenyl)-4-chloro-1-butanone; mp. 150° C. (intermediate 10).

reactant | cyclopropyl (4-amino-3-nitrophenyl)methanone | 80 g | C1(CC1)C(=O)C1=CC(=C(C=C1)N)[N+](=O)[O-] | C10H10N2O3
reactant | HCl | 420 ml | Cl | ClH
solvent | water | O | H2O
product | 1-(4-amino-3-nitrophenyl)-4-chloro-1-butanone | 80 g, 84.5% | NC1=C(C=C(C=C1)C(CCCCl)=O)[N+](=O)[O-] | C10H11ClN2O3
